US04092313
A 2.9 g portion of the 2,4-di-(n-hexadecyloxy)-5-fluoropyrimidine is dissolved in a mixture of 5 ml of 2N aqueous potassium hydroxide solution and 25 ml of ethanol, and the solution is refluxed for 4 hours. The ethanol is distilled off from the resulting reaction mixture, and 50 ml of ether is added to the residue to remove ether-soluble substances. Dilute hydrochloric acid is added to the remaining mass to adjust the pH to 4-5 and to separate out crystals, which are recrystallized from ethanol to give 1.3 g of white crystalline 2-n-hexadecyloxy-5-fluoropyrimidin-4-one in a yield of 73.0%, m.p. 97°-98° C.

reactant | 2,4-di-(n-hexadecyloxy)-5-fluoropyrimidine | C(CCCCCCCCCCCCCCC)OC1=NC=C(C(=N1)OCCCCCCCCCCCCCCCC)F | C36H67FN2O2
solvent | potassium hydroxide | 2N, 5 ml | [OH-].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-n-hexadecyloxy-5-fluoropyrimidin-4-one | 1.3 g, yield of 73.0% | C(CCCCCCCCCCCCCCC)OC1=NC=C(C(N1)=O)F | C20H35FN2O2
